US08871792B2
(R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]-triazole-3-carbonyl)hydrazino]-2-hydroxypropionic Acid
5-Oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carboxylic acid (56.4 mg, 275 μmol) was combined with HCTU (154 mg, 371 μmol) in DMF (852 μL, 11 mmol) and stirred for 15 minutes at room temperature. DIPEA (72 μL, 413 μmol) and (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester (50 mg, 0.1 mmol) were added, and the resulting mixture was stirred overnight at room temperature. EtOH (402 μL, 6.9 mmol) and 1 M LiOH in water (1.1 mL, 1.1 mmol) were added and the resulting mixture was stirred at room temperature for 1 hour. The mixture was evaporated under reduced pressure and the residue was purified by preparative HPLC to yield the title compound (39.8 mg, purity 100%). MS m/z [M+H]+ calc'd for C25H21ClFN5O5, 526.12. found 526.0.

reactant | 5-Oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carboxylic acid | 275 μmol, 56.4 mg | O=C1NC(=NN1C1=CC=CC=C1)C(=O)O | C9H7N3O3
reactant | HCTU | 371 μmol, 154 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 11 mmol, 852 μL | CN(C)C=O | C3H7NO
reactant | DIPEA | 413 μmol, 72 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester | 0.1 mmol, 50 mg | C(C)OC([C@@H](CN(N)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C18H20ClFN2O3
reactant | EtOH | 6.9 mmol, 402 μL | CCO | C2H6O
reactant | LiOH | 1 M | [Li+].[OH-]
reactant | water | 1.1 mmol, 1.1 mL | O | H2O
product | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]-triazole-3-carbonyl)hydrazino]-2-hydroxypropionic Acid | 39.8 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=NN(C(N1)=O)C1=CC=CC=C1)C[C@H](C(=O)O)O)F | C25H21ClFN5O5
